US08048909B2
1-[(3,4-Difluorophenyl)sulfonyl]-5-(pyridin-2-yl)-1H-pyrrole-3-carbaldehyde
To a solution (16 mL) of 5-(pyridin-2-yl)-1H-pyrrole-3-carbaldehyde (80 mg) in tetrahydrofuran was added sodium hydride (60% in oil, 56 mg) at room temperature and the mixture was stirred for 30 min. 15-Crown-5 (307 mg) was added dropwise and the mixture was stirred for 30 min, 3,4-difluorobenzenesulfonyl chloride (198 mg) was added, and the mixture was further stirred for 1 hr. Saturated brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→1:1), and crystallized from diisopropyl ether to give the title compound as colorless crystals (yield 114 mg, 70%).

reactant | 5-(pyridin-2-yl)-1H-pyrrole-3-carbaldehyde | 16 mL, 80 mg | N1=C(C=CC=C1)C1=CC(=CN1)C=O | C10H8N2O
reactant | sodium hydride | 56 mg | [H-].[Na+]
reactant | 15-Crown-5 | 307 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 3,4-difluorobenzenesulfonyl chloride | 198 mg | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 1-[(3,4-Difluorophenyl)sulfonyl]-5-(pyridin-2-yl)-1H-pyrrole-3-carbaldehyde | yield 114 mg, 70% | FC=1C=C(C=CC1F)S(=O)(=O)N1C=C(C=C1C1=NC=CC=C1)C=O | C16H10F2N2O3S
